US07112582B2
Step: 2 (5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methanol:
To stirred suspension of LAH (2.0 gms) a solution of ethyl 5-benzoyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (6.0 g, 19 mmol) in THF was added slowly at 0° C. After addition reaction mixture was stirred for 30 minutes and quenched with saturated NH4Cl. It was diluted with CHCl3 and filtered. The fitrate was washed with saturated brine solution and dried over anhydrous MgSO4. It was filtered and taken to next step with out purifications. Yield: 4.5 g 91%. Yellow liquid.

reactant | LAH | 2.0 gms | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 5-benzoyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 19 mmol, 6.0 g | C(C1=CC=CC=C1)(=O)N1CC2=C(CC1)SC(=C2)C(=O)OCC | C17H17NO3S
solvent | THF | C1CCOC1 | C4H8O
product | (5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methanol | C(C1=CC=CC=C1)N1CC2=C(CC1)SC(=C2)CO | C15H17NOS
